US05629320
Phenylthioacetaldehyde
23 g (1 mol) of sodium are dissolved in 400 ml of ethanol. After cooling, 110 g (1 mol) of thiophenol are added. 197 g (1 mol) of bromoacetaldehyde diethyl acetal are added dropwise to this mixture. The mixture is heated under reflux for 24 hours and cooled and the salt which has precipitated out is filtered off with suction. The filtrate is concentrated, water is added to the evaporation residue and the mixture is extracted 3 times with ether. The combined ether phases are washed with 1N sodium hydroxide solution and water, dried and concentrated. The evaporation residue obtained is dissolved in 1.2 l of tetrahydrofuran, 1 l of dilute hydrochloric acid is added and the mixture is heated under reflux for 3 hours. It is cooled, diluted with water and extracted 3 times with ether, and the combined ether phases are washed with water, sodium bicarbonate solution and water again, dried and concentrated. 150 g of crude oil are obtained, which is reacted without further purification.

reactant | sodium | 1 mol, 23 g | [Na] | Na
reactant | thiophenol | 1 mol, 110 g | C1(=CC=CC=C1)S | C6H6S
reactant | bromoacetaldehyde diethyl acetal | 1 mol, 197 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrochloric acid | 1 l | Cl | ClH
reactant | tetrahydrofuran | 1.2 l | O1CCCC1 | C4H8O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Phenylthioacetaldehyde | 150 g | C1(=CC=CC=C1)CC=S | C8H8S
